*
.SUBCKT BAT721 1 3
* The resistor R1 does not reflect
* a physical device. Instead it 
* improves modeling in the reverse
* mode of operation. 
R1 1 3 5.9E+06 
D1 1 3 BAT721
* 
.MODEL BAT721 D( 
+ IS = 1.009E-06 
+ N = 1.017 
+ BV = 44 
+ IBV = 0.001611 
+ RS = 0.6578 
+ CJO = 3.76E-11 
+ VJ = 0.274 
+ M = 0.4381 
+ FC = 0.5 
+ TT = 0 
+ EG = 0.69 
+ XTI = 2) 
.ENDS 
*
